US07625886B2
7f) (R)-2-(3,4-diamino-5-methyl-phenyl)-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A suspension of 2.00 g (3.24 mmol) (R)-2-(4-amino-3-methyl-5-nitro-phenyl)-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 300 mg 10% Pd/C in 100 mL MeOH was hydrogenated for 3.5 h at 50° C. and 50 psi hydrogen pressure. The catalyst was filtered off, the filtrate was evaporated down i. vac. and the residue was purified by chromatography (silica gel, gradient DCM/MeOH 30:1 to DCM/MeOH 15:1).

reactant | (R)-2-(4-amino-3-methyl-5-nitro-phenyl)-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 3.24 mmol, 2.00 g | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)[N+](=O)[O-])N)C)C(=O)OC)C=CC=C2 | C26H31N5O7
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | (R)-2-(3,4-diamino-5-methyl-phenyl)-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)N)N)C(=O)OC)C=CC=C2 | C26H33N5O5
